US07645753B2
Oxazolo[5,4-b]pyridine-2-thiol
To a solution of 3-amino-pyridin-2-ol (5.51 g, 50.0 mmol, 1.0 equiv) in anhydrous THF (175 mL) was added slowly thiophosgene (6.90 g, 4.57 mL, 60.0 mmol, 1.2 equiv) via syringe pump over a time period of 1 h. After stirring for 24 h at rt, excess thiophosgene was quenched by addition of a conc. solution of ammonium chloride (100 mL) and the majority of solvent was removed by evaporation under reduced pressure. A solution of 10 N NaOH (50 mL) was added and the residue extracted with ethyl acetate (3×100 mL). The combined organic phases were dried over MgSO4 yielding 5.2 g (69%) of crude product, which was used in the subsequent reaction step without further purification. 1H NMR (300 MHz, DMSO): δ 6.30 (t, J=7.0 Hz, 1H), 7.29 (dd, J=7.0 Hz, 1=1.8 Hz, 1H), 7.45 (dd, J=7.0 Hz, J=1.8 Hz, 1H), 13.04 (br s, 1H). MS (ISP): 152.9 [M+H]+.

reactant | 3-amino-pyridin-2-ol | 50.0 mmol, 5.51 g, 1.0 equiv | NC=1C(=NC=CC1)O | C5H6N2O
reactant | thiophosgene | 60.0 mmol, 4.57 mL, 6.90 g, 1.2 equiv | C(=S)(Cl)Cl | CCl2S
solvent | THF | 175 mL | C1CCOC1 | C4H8O
product | Oxazolo[5,4-b]pyridine-2-thiol | N1=C(OC2=NC=CC=C21)S | C6H4N2OS
